US08084448B2
E. 5-{2-Benzyloxy-4-[(E)-2-(2-benzyloxymethyl-2H-pyrazol-3-yl)-vinyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-{2-benzyloxy-4-[(E)-2-(2-benzyloxymethyl-2H-pyrazol-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (330 mg, 0.50 mmol)) and CsF (400 mg, 2.6 mmol) in DMF (5 mL) is heated at 60° C. for 18 h. The mixture is partitioned between aqueous NH4Cl and EtOAc and the organic layer is concentrated to afford the title compound which is used directly in the next step: (M+1)+=531.

reactant | 5-{2-benzyloxy-4-[(E)-2-(2-benzyloxymethyl-2H-pyrazol-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.50 mmol, 330 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C=1N(N=CC1)COCC1=CC=CC=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C33H38N4O5SSi
reactant | CsF | 2.6 mmol, 400 mg | [F-].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-{2-Benzyloxy-4-[(E)-2-(2-benzyloxymethyl-2H-pyrazol-3-yl)-vinyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C=1N(N=CC1)COCC1=CC=CC=C1)N1CC(NS1(=O)=O)=O | C28H26N4O5S
